US09034866B2
Synthesis of 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl]-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
The title compound was prepared similarly according to Procedure E. To a solution of 10-bromo-9-fluoro-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (73 mg, 0.12 mmol) in a mixture of anhydrous DMF (0.5 mL) and acetonitrile (0.7 mL) were introduced (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol (168 mg, 1.10 mmol), copper(I) iodide (4 mg, 0.02 mmol) and triethylamine (700 mg, 6.92 mmol). The solution was de-oxygenated by bubbling with nitrogen for 5 min, then bis(triphenylphosphine)palladium(II) chloride was added and bubbling continued for a further 5 min. The reaction mixture was warmed to 90° C. for 48 hr under an atmosphere of nitrogen, then allowed to stand at room temperature for a further 24 hr. Following evaporation of the reaction mixture in vacuo, the residue was re-dissolved in ethyl acetate (20 mL) and washed with saturated aqueous sodium bicarbonate solution (15 mL). The organic extract was dried over sodium sulfate, filtered and evaporated in vacuo. Purification by silica gel flash column chromatography (heptane/ethyl acetate gradient) furnished a tan solid which was suspended in acetonitrile (0.3 mL), sonicated for 30 seconds, and the solid isolated by suction filtration. Drying on the filter gave the title compound as an off-white solid: 1H NMR (500 MHz, DMSO) δ 1.81 (3H, s), 2.41 (3H, s), 4.50-4.55 (2H, m), 4.58-4.63 (2H, m), 6.35 (1H, d, J=0.63 Hz), 6.60 (1H, s), 7.10 (1H, d, J=10.40 Hz), 7.53 (1H, br. s.), 7.99 (1H, s), 8.63 (1H, d, J=8.20 Hz); 19F NMR (235 MHz, DMSO) δ −54.3, −108.0; LC-MS: m/z 465.05 (M+H)+.

reactant | 10-bromo-9-fluoro-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.12 mmol, 73 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(F)(F)F)C1)F | C13H8BrF4N3O2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | 1.10 mmol, 168 mg | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
reactant | triethylamine | 6.92 mmol, 700 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 0.3 mL | C(C)#N | C2H3N
catalyst | copper(I) iodide | 0.02 mmol, 4 mg | [Cu]I
solvent | acetonitrile | 0.7 mL | C(C)#N | C2H3N
product | 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl]-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(F)(F)F)C=C1C#C[C@](C)(C1=NOC(=C1)C)O | C21H16F4N4O4
